US07767677B2
To an ice cold solution of 4-(6-chloropyridazin-3-yl)piperazine-1-carboxylic acid tert-butyl ester (2.00 g, 6.69 mmol) in dichloromethane (10 mL) was carefully added trifluoroacetic acid (2 mL). The mixture was stirred for 45 minutes at room temperature and then concentrated in vacuo to afford the crude 3-chloro-6-piperazin-1-ylpyridazine (˜1.0 g) which was used in the next reaction without further purification. MS (ES+) m/z 199.1 (M+1).

reactant | 4-(6-chloropyridazin-3-yl)piperazine-1-carboxylic acid tert-butyl ester | 6.69 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=CC1)Cl | C13H19ClN4O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-chloro-6-piperazin-1-ylpyridazine | ˜1.0 g | ClC=1N=NC(=CC1)N1CCNCC1 | C8H11ClN4
